US07288541B2
To a solution of 28.9 g (184 mmol) of tert-butyl allylcarbamate in 400 mL of dichloromethane was added 103 g (460 mmol) of 77% 3-chloroperoxybenzoic acid at room temperature. The reaction mixture was stirred at room temperature overnight. The solid was filtered and the filtrate was concentrated. The residue was taken up in diethyl ether and washed with 5% sodium hydrosulfite (3×), saturated sodium bicarbonate (3×), brine (3×), and dried over anhydrous magnesium sulfate. Removal of solvent gave 21 g (66%) of tert-butyl 2-oxiranylmethylcarbamate as a liquid. 1H-NMR (400 MHz, CDCl3): δ 4.73 (br s, 1H), 3.53 (br s, 1H), 3.21 (m, 1H), 3.08 (br s, 1H), 2.77 (t, J=4 Hz, 1H), 2.58 (m, 1H), 1.43 (s, 9H).

reactant | tert-butyl allylcarbamate | 184 mmol, 28.9 g | C(C=C)NC(OC(C)(C)C)=O | C8H15NO2
reactant | 3-chloroperoxybenzoic acid | 460 mmol, 103 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | tert-butyl 2-oxiranylmethylcarbamate | 21 g, 66% | O1C(C1)CNC(OC(C)(C)C)=O | C8H15NO3
